US04283396
Gelules were prepared with 250 mg of 3-acetoxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid or sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylate or 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-(1-methylethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid or the syn isomer of 7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-ceph-3-eme-4-carboxylic acid and sufficient excipient to obtain a final weight of 400 mg.

reactant | 3-acetoxymethyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | 250 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O.[Na+]
reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-(1-methylethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC(C)C)C=2N=C(SC2)N)=O)=O | C18H21N5O7S2
product | 7-[2-(2-amino-4-thiazolyl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-ceph-3-eme-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NO | C15H15N5O7S2
